US08133907B2
(4R,5S)-4-(2-Fluoro-benzyl)-2,2-dimethyl-5-(3-methylcarbamoyl-pyridin-2-ylmethyl)-oxazolidine-3-carboxylic acid tert-butyl ester
Using general reaction procedure 5 with 2-[(4R,5S)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid (0.5 g, 1.1 mmol) and methyl amine hydrochloride (0.38 mL, 5.6 mmol) gives the title compound.

reactant | 2-[(4R,5S)-3-tert-butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid | 1.1 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1CC1=C(C=CC=C1)F)CC1=C(C(=O)O)C=CC=N1)(C)C | C24H29FN2O5
reactant | methyl amine hydrochloride | 5.6 mmol, 0.38 mL | Cl.CN
product | (4R,5S)-4-(2-Fluoro-benzyl)-2,2-dimethyl-5-(3-methylcarbamoyl-pyridin-2-ylmethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@H]1CC1=C(C=CC=C1)F)CC1=NC=CC=C1C(NC)=O)(C)C | C25H32FN3O4
